US04073799
In accordance with the process of Example 17, potassium t-butoxide, (336 mg; 3 m mol), n-hexyl mercaptan (354 mg; 3 m mol) and 2-oxo-bicyclo 3.1.0!hexane-1-carboxylic acid methyl ester (463 mg; 3 m mol) were used to obtain 500 mg of 5-hexylthiomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester.

reactant | potassium t-butoxide | 336 mg | CC(C)([O-])C.[K+]
reactant | n-hexyl mercaptan | 354 mg | C(CCCCC)S | C6H14S
reactant | hexane-1-carboxylic acid methyl ester | 463 mg | COC(=O)CCCCCC | C8H16O2
product | 5-hexylthiomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester | 500 mg, Yield: 61% | COC(=O)C1C(CCC1CSCCCCCC)=O | C14H24O3S
